US09358200B2
Preparation of (N-Acetyl-glycylpropyl)triethoxysilane
A 5 L, 4-neck flask equipped with a heating mantle, a mechanical stirrer, a pot thermometer, an addition funnel, and a short Vigreux column with a distillation head connected to a nitrogen bubbler was charged with 2500 g of ethanol and 146.4 g of N-acetylglycine. This mixture was stirred at room temperature for 15 minutes. 110.5 g of potassium ethoxide were added while maintaining the pot temperature below 50° C. The mixture was heated to a pot temperature of 80° and 362.7 g of 3-iodopropyltriethoxysilane was added. Ethanol was removed by distillation until the pot temperature rose to 90° C. to 95° C. The reaction was followed by GC and heating continued for ˜100 hours until less than 10% of the 3-iodopropyltriethoxysilane remained. The flask and the contents were allowed to cool to room temperature and then filtered to give a clear to slightly hazy solution with 25-30% solids. A sample of solution was stripped of solvent at 120° C. and 1 mm vacuum to remove all solvents and unreacted starting materials. The product was purified by wiped film distillation at 190° C. at 0.5 mm. IR and NMR results were consistent with the target structure.

reactant | N-acetylglycine | 146.4 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | potassium ethoxide | 110.5 g | [O-]CC.[K+]
reactant | 3-iodopropyltriethoxysilane | 362.7 g | ICCC[Si](OCC)(OCC)OCC | C9H21IO3Si
solvent | ethanol | 2500 g | C(C)O | C2H6O
product | (N-Acetyl-glycylpropyl)triethoxysilane | 25-30% | C(C)(=O)NCC(=O)CCC[Si](OCC)(OCC)OCC | C13H27NO5Si
